US08633173B2
8-(2-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (0.50 g, 2.3 mmol) and 2-(methylsulfonyl)phenylboronic acid (0.56 g, 2.8 mmol) in a manner analogous to Step 2c. The reaction product was isolated as a pale yellow solid (0.249 g, 37%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.56 (d, J=6.6 Hz, 1H), 8.10 (d, J=7.8 Hz, 1H), 7.79 (t, J=7.6 Hz, 1H), 7.73 (d, J=7.7 Hz, 1H), 7.48 (d, J=7.3 Hz, 1H), 7.36 (d, J=7.1 Hz, 1H), 6.93 (d, J=6.9 Hz, 1H), 5.99 (s, 2H), 3.16 (s, 3H). MS=289 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.3 mmol, 0.50 g | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | 2-(methylsulfonyl)phenylboronic acid | 2.8 mmol, 0.56 g | CS(=O)(=O)C1=C(C=CC=C1)B(O)O | C7H9BO4S
product | 8-(2-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | CS(=O)(=O)C1=C(C=CC=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
